US08541430B2
Step-2: Synthesis of 2-hydroxy-4-oxo-7-(5-trifluoromethyl-pyridin-2-yl)-5,6,7,8-tetrahydro-4H-9-thia-1,4a,7-triaza-fluorene-3-carboxylic acid ethyl ester
The mixture of 5-(5-trifluoromethyl-pyridin-2-yl)-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-ylamine (5.7 gm, 0.019 mol) and triethyl methanetricarboxylate (16.1 ml, 0.076 mol) in xylene (100 ml) was heated at 140-150° C. for 6 hours. Xylene was evaporated and diethyl ether was then added and the suspension was stirred for 15 minutes. It was filtered and washed with ether. The crude solid was digested with dichloromethane (200 ml) and filtered to remove insoluble residue. Dichloromethane layer was distilled off under vacuum to give 1.3 gm of title compound.

reactant | 5-(5-trifluoromethyl-pyridin-2-yl)-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridin-2-ylamine | 0.019 mol, 5.7 gm | FC(C=1C=CC(=NC1)N1CC2=C(CC1)N=C(S2)N)(F)F | C12H11F3N4S
reactant | triethyl methanetricarboxylate | 0.076 mol, 16.1 ml | C(C(=O)OCC)(C(=O)OCC)C(=O)OCC | C10H16O6
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-hydroxy-4-oxo-7-(5-trifluoromethyl-pyridin-2-yl)-5,6,7,8-tetrahydro-4H-9-thia-1,4a,7-triaza-fluorene-3-carboxylic acid ethyl ester | 1.3 gm | C(C)OC(=O)C1=C(N=C2SC=3CN(CCC3N2C1=O)C1=NC=C(C=C1)C(F)(F)F)O | C18H15F3N4O4S
